US05238948
7. Bis(5-methyl-2-oxo-1,3-dioxol-4-ylmethyl) pyridine-2,4-dicarboxylate
6.3 g of pyridine-2,4-dicarboxylic acid sodium salt are boiled under reflux with 14.3 g of 5-methyl-2-oxo-1,3-dioxol-4-yl-methyl bromide and 4.5 g of potassium carbonate in 125 ml of dry acetone for 40 hours. The carbonate is filtered off and the solution is chromatographed over silica gel with a 4:1 mixture of toluene and ethyl acetate.

reactant | pyridine-2,4-dicarboxylic acid sodium salt | 6.3 g | [Na+].N1=C(C=C(C=C1)C(=O)[O-])C(=O)[O-].[Na+]
reactant | 5-methyl-2-oxo-1,3-dioxol-4-yl-methyl bromide | 14.3 g | CC1=C(OC(O1)=O)CBr | C5H5BrO3
reactant | potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | Bis(5-methyl-2-oxo-1,3-dioxol-4-ylmethyl) pyridine-2,4-dicarboxylate | N1=C(C=C(C=C1)C(=O)OCC=1OC(OC1C)=O)C(=O)OCC=1OC(OC1C)=O | C17H13NO10
